US09169254B2
2-(3-Benzyloxy-5-trifluoromethyl-phenyl)-8-[2-(4-tert-butoxycarbonyl-2-methyl-phenyl)-ethanesulfonyl]-4-oxo-1,3,8-triaza-spiro[4.5]dec-1-ene-3-carboxylic acid tert-butyl ester (1.11 g, 1.41 mmol) was dissolved in ethyl acetate (45.0 ml)-THF (15.0 ml). Pd—C (222 mg) was added and the mixture was stirred at room temperature and for one hour in a hydrogen atmosphere. After completion of the reaction, the black solid was filtered off through celite, and the filtrate was concentrated under reduced pressure to give 8-[2-(4-tert-butoxycarbonyl-2-methyl-phenyl)-ethanesulfonyl]-2-(3-hydroxy-5-trifluoromethyl-phenyl)-4-oxo-1,3,8-triaza-spiro[4.5]dec-1-ene-3-carboxylic acid tert-butyl ester as an amorphous (1.01 g, 100%).

reactant | 2-(3-Benzyloxy-5-trifluoromethyl-phenyl)-8-[2-(4-tert-butoxycarbonyl-2-methyl-phenyl)-ethanesulfonyl]-4-oxo-1,3,8-triaza-spiro[4.5]dec-1-ene-3-carboxylic acid tert-butyl ester | 1.41 mmol, 1.11 g | C(C)(C)(C)OC(=O)N1C(=NC2(C1=O)CCN(CC2)S(=O)(=O)CCC2=C(C=C(C=C2)C(=O)OC(C)(C)C)C)C2=CC(=CC(=C2)C(F)(F)F)OCC2=CC=CC=C2 | C40H46F3N3O8S
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 45.0 ml | C(C)(=O)OCC | C4H8O2
solvent | THF | 15.0 ml | C1CCOC1 | C4H8O
catalyst | Pd—C | 222 mg | [Pd] | Pd
product | 8-[2-(4-tert-butoxycarbonyl-2-methyl-phenyl)-ethanesulfonyl]-2-(3-hydroxy-5-trifluoromethyl-phenyl)-4-oxo-1,3,8-triaza-spiro[4.5]dec-1-ene-3-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C(=NC2(C1=O)CCN(CC2)S(=O)(=O)CCC2=C(C=C(C=C2)C(=O)OC(C)(C)C)C)C2=CC(=CC(=C2)C(F)(F)F)O | C33H40F3N3O8S
